US05620979
To a stirred mixture of 2-amino-5-fluoro-3-nitrobenzotrifluoride (554 mg, 2.47 mmol) in ethanol (10 mL) was added SnCl2.2 H2O (2.78 g, 12.36 mmol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) for 1 h, cooled to room temperature and ice water (20 g) was added. It was adjusted to pH=7 and extracted with ethyl acetate. The extract was dried over Mg2SO4 and evaporated to give 148 mg (30%) of 2,3-diamino-5-fluorobenzotrifluoride as a brown solid. 1H NMR (CDCl3): δ 3.666 (s, 2H); 3.676 (s, 2H); 6.610 (dd, 1H, J1 =2.4 Hz, J2 =9.0 Hz), 6.703 (dd, 1H, J1 =2.4 Hz, J2 =9.0 Hz).

reactant | 2-amino-5-fluoro-3-nitrobenzotrifluoride | 2.47 mmol, 554 mg | NC1=C(C=C(C=C1[N+](=O)[O-])F)C(F)(F)F | C7H4F4N2O2
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 12.36 mmol, 2.78 g | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2,3-diamino-5-fluorobenzotrifluoride | 148 mg, 30% | NC1=C(C=C(C=C1N)F)C(F)(F)F | C7H6F4N2
